US05196454
5-Acetylamino-2-ethylamino-tetraline-hydrochloride
Starting from 2.03 g (0.01 mol) of 5-acetylamino-2-tetralone and 2.45 g (0.03 mol) of ethylaminehydrochloride the title compound is obtained analogously to Example 4.1.11 in a yield of 1.2 g (44.6% of theory) and with a melting point of 351° C. which does not change after recrystallisation from methanol/ether.

reactant | 5-acetylamino-2-tetralone | 0.01 mol, 2.03 g | C(C)(=O)NC1=C2CCC(CC2=CC=C1)=O | C12H13NO2
reactant | ethylaminehydrochloride | 0.03 mol, 2.45 g | Cl.C(C)N
product | 5-Acetylamino-2-ethylamino-tetraline-hydrochloride | Cl.C(C)(=O)NC1=C2CCC(CC2=CC=C1)NCC | InChI=1S/C14H20N2O.ClH/c1-3-15-12-7-8-13-11(9-12)5-4-6-14(13)16-10(2)17;/h4-6,12,15H,3,7-9H2,1-2H3,(H,16,17);1H
